US06514964B1
Step B: N-(2-(2-Bromophenyl)ethyl)-N-(phenylmethyl)amine
2-(2-Bromophenyl)-N-(phenylmethyl)acetamide was dissolved THF (0.2 M), followed by addition of BH3.DMS (3 eq), and the reaction was heated to reflux with stirring. After 2 hrs, the mixture was cooled to room temerature, and quenched with excess 10% HCl. The mixture was heated to reflux for 1 hr, and then cooled to room temperature. After washing with EtOAc, the aqueous phase was made alkaline with 10% sodium carbonate, and extracted with EtOAc. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with EtOAc to afford a colorless solid. EI-MS m/z 290/292 (M+H)+

reactant | 2-(2-Bromophenyl)-N-(phenylmethyl)acetamide | BrC1=C(C=CC=C1)CC(=O)NCC1=CC=CC=C1 | C15H14BrNO
reactant | DMS | 3 eq | CSC | C2H6S
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | N-(2-(2-Bromophenyl)ethyl)-N-(phenylmethyl)amine | BrC1=C(C=CC=C1)CCNCC1=CC=CC=C1 | C15H16BrN
